US07365085B2
N-(2-Phenyl-3-methylbutyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
The titled compound was prepared from 2-phenyl-3-methylbutylamine (Acta. Pharmaceutica Nordica (1992), 4(2), 105-9) in the same manner as the preparation of N-(2-Phenyl-4-methylpentyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride, Example 189e-h. MS (ESI) 548 (MH+).

reactant | 2-phenyl-3-methylbutylamine | C1(=CC=CC=C1)C(CN)C(C)C | C11H17N
reactant | N-(2-Phenyl-4-methylpentyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | Cl.C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)CC(C)C
product | N-(2-Phenyl-3-methylbutyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | Cl.C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C(C)C | InChI=1S/C30H33ClF3NO3.ClH/c1-21(2)26(23-10-4-3-5-11-23)20-35(19-24-12-7-14-27(29(24)31)30(32,33)34)15-8-16-38-25-13-6-9-22(17-25)18-28(36)37;/h3-7,9-14,18,21,26H,8,15-17,19-20H2,1-2H3,(H,36,37);1H
